US09163021B2
Ethyl (3-tert-Butyl-1H-1,2,4-triazol-5-yl)acetate (Preparation 116, 27.4 g, 0.13 mol) and 1-bromo-2-methoxyethane (13.7 mL, 0.143 mol) was dissolved in DMF (400 mL). K2CO3 (90.0 g, 0.65 mol) was added and the reaction mixture was stirred for 6 hours at 50-60° C. The reaction was cooled to room temperature, diluted with water (400 mL), and extracted with Et2O (3×100 mL). The combined organic extracts were washed with brine (3×200 mL), dried with Na2SO4, and evaporated to afford a mixture of alkylated triazole residues. The mixture was separated using HPLC (Luna 10 u 018(2), 100 A, 21.2×250 mm, H2O/acetonitrile 30-40%) to afford ethyl[3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetate (23.14 g, 66%).

reactant | Ethyl (3-tert-Butyl-1H-1,2,4-triazol-5-yl)acetate | 0.13 mol, 27.4 g | C(C)(C)(C)C1=NNC(=N1)CC(=O)OCC | C10H17N3O2
reactant | 1-bromo-2-methoxyethane | 0.143 mol, 13.7 mL | BrCCOC | C3H7BrO
reactant | K2CO3 | 0.65 mol, 90.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | ethyl[3-tert-Butyl-1-(2-methoxyethyl)-1H-1,2,4-triazol-5-yl]acetate | 23.14 g, 66% | C(C)OC(CC1=NC(=NN1CCOC)C(C)(C)C)=O | C13H23N3O3
